2101-04-18 09:14:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Reports that abdominal pain is improved
   Somnolent this AM
   24 Hour Events:
 MULTI LUMEN - START [**2101-4-18**] 12:34 AM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Zantac (Oral) (Ranitidine Hcl)
   muscle spasm;
   Reglan (Oral) (Metoclopramide Hcl)
   muscle spasm;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Dextrose 50% - [**2101-4-18**] 02:23 AM
   Heparin Sodium (Prophylaxis) - [**2101-4-18**] 04:10 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2101-4-18**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 87 (87 - 100) bpm
   BP: 118/78(87) {110/69(79) - 172/109(123)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,875 mL
   PO:
             TF:
   IVF:
   850 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,877 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   11.1 g/dL
   342 K/uL
   96 mg/dL
   11.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   40 mg/dL
   104 mEq/L
   142 mEq/L
   33.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2101-4-18**]  12:36 AM
                             [**2101-4-18**]  04:49 AM
   WBC
   8.4
   Hct
   33.3
   Plt
   342
   Cr
   11.4
   11.2
   Glucose
   118
   96
   Other labs: ALT / AST:[**9-4**], Alk Phos / T Bili:172/0.3, Amylase /
   Lipase:/33, Differential-Neuts:65.9 %, Lymph:24.7 %, Mono:4.3 %,
   Eos:4.6 %, Lactic Acid:0.9 mmol/L, LDH:170 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETIC KETOACIDOSIS (DKA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   A/p: 28 yo woman with ESRD, DM1, in MICU with DKA
   DKA: Gap now much improved - probably will not be able to achieve a
   completely normal gap with her renal failure.  Insulin gtt at 2units/hr
   Unclear what her home regimen of insulin is.  Will get [**Last Name (un) 294**] consult.
   Cont to follow frequent lytes.
   Altered mental status: Improving.  Head CT normal
   Abdominal pain: Improved
   ESRD: HD per renal
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-4-18**] 12:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2101-04-19 06:15:00 Physician Resident Progress Note
Chief Complaint: abdominal pain
   24 Hour Events:
   Obtained home med list from [**Company **], full list in team census.
   -- Added Pt
s home antihypertensive medications but they were held due
   to persistent nausea. Changes ISS [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**] recs.
   -- 6pm labs...anion gap closed (9). Pt continues to be hypertensive but
   asymptomatic in setting of holding her home BP meds because she is NPO
   due to nausea. Complaining of abdominal pain, but responds well to
   dilaudid and zofran. KUB obtained, poor study but no obvious SBO. Pt
   sleepy throughout night, but then wakes up and asks for dilaudid for
   pain.
   Allergies:
   Zantac (Oral) (Ranitidine Hcl)
   muscle spasm;
   Reglan (Oral) (Metoclopramide Hcl)
   muscle spasm;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2101-4-18**] 07:15 PM
   Heparin Sodium (Prophylaxis) - [**2101-4-18**] 08:37 PM
   Lorazepam (Ativan) - [**2101-4-19**] 02:15 AM
   Hydromorphone (Dilaudid) - [**2101-4-19**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-4-19**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 108 (87 - 109) bpm
   BP: 165/107(120) {117/73(44) - 200/116(131)} mmHg
   RR: 22 (8 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,815 mL
                                                                     31 mL
   PO:
             TF:
   IVF:
                                                                  1,740 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    200 mL
   Urine:
                                                                    250 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,565 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   Gen: AOX3, somnolent, but arouses to answer questions. Participates in
   exam
   HEENT:mmm
   Cards: tachycardic, regular, no m/r/g
   Resp: CTAB
   Abd:soft. Nt/nd, +BS, no organomegaly
   Ext: WWP no c/c/e
   Neuro: non focal
   Labs / Radiology
   304 K/uL
   11.8 g/dL
   77 mg/dL
   5.5 mg/dL
   33 mEq/L
   4.1 mEq/L
   11 mg/dL
   99 mEq/L
   142 mEq/L
   36.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2101-4-18**]  12:36 AM
                             [**2101-4-18**]  04:49 AM
                             [**2101-4-18**]  12:21 PM
                             [**2101-4-18**]  06:07 PM
                             [**2101-4-18**]  11:44 PM
                             [**2101-4-19**]  04:21 AM
   WBC
   8.4
   7.3
   Hct
   33.3
   36.9
   Plt
   342
   304
   Cr
   11.4
   11.2
   10.8
   4.5
   5.1
   5.5
   Glucose
   118
   96
   59
   71
   64
   77
   Other labs: PT / PTT / INR:11.5/26.6/1.0, ALT / AST:[**9-4**], Alk Phos / T
   Bili:172/0.3, Amylase / Lipase:/33, Differential-Neuts:65.9 %,
   Lymph:24.7 %, Mono:4.3 %, Eos:4.6 %, Lactic Acid:0.9 mmol/L, LDH:170
   IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Assessment and Plan: 28 yo F with history of DM1, ESRD on HD presents
   with abdominal pain and found to be in DKA.
   .
   # DKA: Likely due to poor insulin compliance and gastoporesis. No clear
   precipitating event other than noncompliance. No signs of infection
   (CXR normal), lipase normal, serum tox negative, EKG without signs of
   ischemia, and neuro exam normal so unlikely CVA. Diagnosis supported by
   AG of 25, ketonuria, and hyperglycemia (although clasically DKA
   presents with serum glucose 500-800). Started on IV insulin without
   bolus in ED, and sugars improved from 300s to 70s. Would ideally like
   to start SQ insulin, but will need to confirm SQ dose in AM.
   - Anion gap has now closed
   - Insulin gtt and D5 shut off around 5pm yesterday
   - Pt intermittently tolerating PO but continues to complain of GI pain
   and nausea
   - Will continue to follow [**Last Name (un) 294**] recs
   - Lantus 20 units at dinner time
   .
   # Abdominal pain: Carries diagnosis of gastroporesis, which may be
   etiology of this pain, as she did present with nausea and vomitting.
   Responded to dilaudid, ativan and compazine in the ED. Lipase normal.
   Alk phos elevated, but other LFTs normal. Exam benign.  Overnight, Pt
   appears to be trying to wretch and crying out asking for pain
   medication. Once given, Pt falls asleep immediately.
   - Suspect component of somatization/secondary gain
   - Can consider CT scan of abdomen if concern for acute intraabdominal
   process
   .
   # ESRD on HD: Missed HD since Monday. No urgent need for HD overnight.
   Fistula with palpable thrill in RUE.
   - Pt dialyzed yesterday
   - Will continue to follow renal recs
   - Dialysis scheduled MWF
   .
   # Hypertension: Pt persistently hypertensive/tachycardic
   - On home regimen of clonidine patch, labetolol 100 mg [**Hospital1 **], lisinopril
   5 mg qD
   - Can give 10 mg IV hydralazine PRN for hypertension if Pt markedly
   hypertensive or otherwise symptomatic
   .
   # Social: Pt w/ longstanding hx of medication non-compliance. Also w/
   stressful social situation at baseline
   - SW consult in AM
   ,
   # FEN: Clear diet, advancing as tolerated
   # Prophylaxis: Subcutaneous heparin, PPI
   # Access: peripheral x1, Femoral triple lumen
   # Communication: Patient
   # Code:  presumed full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-4-18**] 12:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-04-19 09:19:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Ongoing N/V overnight - also with abd pain requting intermittent
   Dilaudid 2mg iv
   24 Hour Events:
   HD yesterday
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Zantac (Oral) (Ranitidine Hcl)
   muscle spasm;
   Reglan (Oral) (Metoclopramide Hcl)
   muscle spasm;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2101-4-18**] 07:15 PM
   Heparin Sodium (Prophylaxis) - [**2101-4-18**] 08:37 PM
   Lorazepam (Ativan) - [**2101-4-19**] 02:15 AM
   Hydromorphone (Dilaudid) - [**2101-4-19**] 04:45 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Gastrointestinal: No(t) Nausea
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2101-4-19**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**03**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 98 (90 - 109) bpm
   BP: 150/98(111) {130/76(44) - 200/116(131)} mmHg
   RR: 12 (8 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,815 mL
                                                                     46 mL
   PO:
             TF:
   IVF:
                                                                  1,740 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    200 mL
   Urine:
                                                                    250 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,565 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   304 K/uL
   77 mg/dL
   5.5 mg/dL
   33 mEq/L
   4.1 mEq/L
   11 mg/dL
   99 mEq/L
   142 mEq/L
   36.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2101-4-18**]  12:36 AM
                             [**2101-4-18**]  04:49 AM
                             [**2101-4-18**]  12:21 PM
                             [**2101-4-18**]  06:07 PM
                             [**2101-4-18**]  11:44 PM
                             [**2101-4-19**]  04:21 AM
   WBC
   8.4
   7.3
   Hct
   33.3
   36.9
   Plt
   342
   304
   Cr
   11.4
   11.2
   10.8
   4.5
   5.1
   5.5
   Glucose
   118
   96
   59
   71
   64
   77
   Other labs: PT / PTT / INR:11.5/26.6/1.0, ALT / AST:[**9-4**], Alk Phos / T
   Bili:172/0.3, Amylase / Lipase:/33, Differential-Neuts:65.9 %,
   Lymph:24.7 %, Mono:4.3 %, Eos:4.6 %, Lactic Acid:0.9 mmol/L, LDH:170
   IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETIC KETOACIDOSIS (DKA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   A/p: 28 yo woman with ESRD, DM1, in MICU with DKA
   DKA: Resolved and now on sq insulin lantus per sliding scale.
   Appreciate [**Last Name (un) 294**] service ongoing input
   Altered mental status: Somnolent this AM but arousable and following
   commands
   Abdominal pain: Intermittent - exam unremarkable.  Will try to come
   down on opiates if possible but there may be a component of withdrawal
   ESRD: HD per renal
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-4-18**] 12:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: